US06436982B1
4-chloro-6-aminobenzimidazole.
Methanolic solution of 6-chloro-2,4-dinitroaniline (2.4 g, 11 mmol) was stirred overnight with 100 mg of 10% Pd/C under H2. Reaction mixture was filtered and concentrated in vacuo to provide an oil which was dissolved in 10 ml of acetic anhydride and 10 ml of formic acid and stirred at reflux for 12 h. The reaction mixture was concentrated in vacuo, yielding a brown oil which was characterized as 4-chloro-6-foramidylbenzimidazole in NMR analysis. The foramide was dissolved in 20 ml of HCl sat'd EtOH and stirred for 3 h at 25° C. The reaction mixture was purified in column chromotography (5% MeOH/EtOAc) to provide 0.89 g (5.3 mmol, 48% overall) of the desired product.

reactant | 6-chloro-2,4-dinitroaniline | 11 mmol, 2.4 g | ClC1=CC(=CC(=C1N)[N+](=O)[O-])[N+](=O)[O-] | C6H4ClN3O4
reactant | formic acid | 10 ml | C(=O)O | CH2O2
reactant | 4-chloro-6-foramidylbenzimidazole | ClC1=CC(=CC=2N=CNC21)NC=O | C8H6ClN3O
reactant | EtOH | CCO | C2H6O
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | HCl | 20 ml | Cl | ClH
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-chloro-6-aminobenzimidazole | ClC1=CC(=CC=2N=CNC21)N | C7H6ClN3
